US07285368B2
In a nitrogen atmosphere, to a mixture of 115 g of 2-aminocyclohexanol, 235 g of 2,6-lutidine, and 1,000 g of N,N-dimethylformamide was added 282 g of trifluoromethanesulfonic anhydride at −20° C. After agitation for one hour, 105 g of methacryloyl chloride was added thereto at −20° C. The mixture was gradually warmed to room temperature and then stirred for 5 hours. The reaction mixture was subjected to conventional aqueous work-up and purified by column chromatography, obtaining 221 g of 2-[(trifluoromethylsulfonyl)amino]cyclohexyl methacrylate as a colorless solid. The yield was 70%.

reactant | 2-aminocyclohexanol | 115 g | NC1C(CCCC1)O | C6H13NO
reactant | 2,6-lutidine | 235 g | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 282 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methacryloyl chloride | 105 g | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | N,N-dimethylformamide | 1,000 g | CN(C=O)C | C3H7NO
product | 2-[(trifluoromethylsulfonyl)amino]cyclohexyl methacrylate | 221 g, yield was 70% | C(C(=C)C)(=O)OC1C(CCCC1)NS(=O)(=O)C(F)(F)F | C11H16F3NO4S
